US09107916B2
A. methyl 4-(4-fluoro-2-methylphenyl)-3-oxobutanoate
The title compound was prepared in 78% yield from 2-(4-fluoro-2-methylphenyl)acetic acid and 3-methoxy-3-oxopropanoic acid potassium salt according to the procedure for the preparation of Example 170, part A. 1H NMR (300 MHz, CDCl3): δ 2.24 (3H, s), 3.47 (2H, s), 3.74 (3H, s), 3.83 (2H, s), 6.88-6.94 (2H, m), 7.07-7.12 (1H, m).

reactant | 2-(4-fluoro-2-methylphenyl)acetic acid | FC1=CC(=C(C=C1)CC(=O)O)C | C9H9FO2
reactant | 3-methoxy-3-oxopropanoic acid potassium salt | [K+].COC(CC(=O)[O-])=O
product | methyl 4-(4-fluoro-2-methylphenyl)-3-oxobutanoate | 78% yield | FC1=CC(=C(C=C1)CC(CC(=O)OC)=O)C | C12H13FO3
